US05162308
Preparation of 3,5-Dibromo-1-methylpyrrole-2,4-dicarbonitrile
A sample (1.0 g, 0.0036 mol) of 3,5-dibromopyrrole-2,4-dicarbonitrile is readily soluble in 20 mL of acetone. Anhydrous potassium carbonate (0.64 g, 0.0046 mol) is added, and while the slurry is stirred, methyl iodide (0.68 g, 0.0047 mol) is added. The reaction can be followed by Tlc. When the reaction is complete, the mixture is poured into water precipitating a white solid. The product (0.77 g, 74%) has mp 175°-178° C.

reactant | 3,5-dibromopyrrole-2,4-dicarbonitrile | 0.0036 mol, 1.0 g | BrC1=C(NC(=C1C#N)Br)C#N | C6HBr2N3
reactant | potassium carbonate | 0.0046 mol, 0.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.0047 mol, 0.68 g | CI | CH3I
reactant | water | O | H2O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 3,5-Dibromo-1-methylpyrrole-2,4-dicarbonitrile | BrC1=C(N(C(=C1C#N)Br)C)C#N | C7H3Br2N3
